US07141596B2
2-[4-((2S)-2-[(Benzyloxy)carbonyl]amino-3-[6-(1,1-dioxido-3-oxoisothiazolidin-5-yl)biphenyl-3-yl]propanoylamino)butoxy]-6-hydroxybenzoic acid
To a solution of methyl 2-[4-((2S)-2-[(benzyloxy)carbonyl]amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoylamino)butoxy]-6-hydroxybenzoate (12.0 mg, 0.0164 mmol) in toluene (0.4 mL) and 1,4-dioxane (0.4 mL) was added phenylboronic acid (2.40 mg, 0.0196 mmol) and 2 M sodium carbonate in water (0.049 mL). The resulting mixture was degassed with nitrogen. Tetrakis(triphenylphosphine)palladium(0) (0.95 mg, 0.82 μmol) was then added to reaction mixture and heated at 100° C. overnight. The reaction mixture was filtered and purified by preparative LCMS to afford a white solid (3.9 mg, 33%). 1H NMR (400 MHz, CD3OD): δ 7.59 (m, 1H), 7.36 (m, 13H), 6.57 (m, 2H), 5.04 (m, 3H), 4.36 (m, 1H), 4.11 (m, 2H), 3.22 (m, 5H), 2.96 (m, 1H),1.78 (m, 2H), 1.59 (m, 2H). LCMS found for C37H378N3O10S (M+H)+: m/z=716.

reactant | methyl 2-[4-((2S)-2-[(benzyloxy)carbonyl]amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoylamino)butoxy]-6-hydroxybenzoate | 0.0164 mmol, 12.0 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)NCCCCOC1=C(C(=O)OC)C(=CC=C1)O)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)Br | C32H34BrN3O10S
reactant | phenylboronic acid | 0.0196 mmol, 2.40 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 0.4 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 0.4 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.049 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.82 μmol, 0.95 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[4-((2S)-2-[(Benzyloxy)carbonyl]amino-3-[6-(1,1-dioxido-3-oxoisothiazolidin-5-yl)biphenyl-3-yl]propanoylamino)butoxy]-6-hydroxybenzoic acid | 3.9 mg, 33% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)NCCCCOC1=C(C(=O)O)C(=CC=C1)O)CC=1C=C(C(=CC1)C1CC(NS1(=O)=O)=O)C1=CC=CC=C1 | C37H37N3O10S
